US09403783B2
In this embodiment of Step 1, illustrated in FIG. 2, Epoxide 1 can be prepared by reacting epichlorohydrin with 2-ethoxyphenol in the presence of a catalytic amount of a phase transfer catalyst without the use of solvents at elevated temperatures in a two-stage process to afford near quantitative yield of 1-(2-ethoxyphenoxy)-2,3-epoxypropane with very few side products. This embodiment of the invention is further illustrated by a non-limiting Example 12. The phase transfer catalyst for this embodiment can be selected from ammonium salts such as benzyltriethylammonium salts, benzyltrimethylammonium salts, tetrabutylammonium salts, etc; phosphonium salts, guanidinium salts, crown ether, polyethylene glycol, polyethylene glycol ether, or polyethylene glycol ester, or other phase transfer catalysts know in the art. The first stage of the process of this embodiment may take place without a solvent in a presence of a large excess of epichlorohydrin. This stage is followed by a de-chlorination stage, before or after removal of excess epichlorohydrin, using a base and a solvent. The reaction produces 1-(2-ethoxyphenoxy)-2,3-epoxypropane in high yield. Example of the bases used herein include but are not limited to NaOH, KOH, LiOH, LiOH/LiCl, K2CO3, Na2CO3, amines such as mono-, di- or tri-substituted amines (such as diethylamine, triethylamine, dibutylamine, tributylamine etc.), DMAP. In one variation of this embodiment of Step 1, the phase transfer catalyst may be used only at the de-chlorination stage of the process. The de-chlorination stage can be carried out in a biphasic system or in a single phase system. For a biphasic system, it can be an organic-aqueous liquid biphasic system, or a liquid-solid biphasic system. Solvents that are useful for the process include but are not limited to non-substituted and substituted aromatic solvents (e.g. toluene, benzene, chlorobenzene, dimethylbenzene, xylene), halo-substituted hydrocarbons (e.g. CH2Cl2, CHCl3), THF, dioxanes, DMF, DMSO, non-substituted and substituted pyridines, ketones, pyrrolidones, ethers, acetonitrile, nitromethane. As mentioned above, this process takes place at the elevated temperature. In one variation of the embodiment, the temperature is above 60° C. In another variation, 2-ethoxyphenol and epichlorohydrin are heated to 60-90° C. for a period of time in the presence of phase transfer catalyst. Excess of epichlorohydrin is removed and the residue is dissolved in a solvent such as toluene or benzene treated with an aqueous base solution, such as NaOH, KOH, LiOH, LiOH/LiCl. In yet another variation of the embodiment, the residue after epichlorohydrin removal can be dissolved in one or more of the said solvent and treated with a base (solid or liquid but not an aqueous solution) and optionally a second phase transfer catalyst, optionally at elevated temperatures.

reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
reactant | 2-ethoxyphenol | C(C)OC1=C(C=CC=C1)O | C8H10O2
product | 1-(2-ethoxyphenoxy)-2,3-epoxypropane | quantitative yield | C(C)OC1=C(OCC2CO2)C=CC=C1 | C11H14O3
